US05736539
1-Benzyl-3(S)-methylpiperazine-2,5-dione
The title compound was prepared according to the procedure described by John S. Kiely and Stephen R. Priebe in Organic Preparations and Procedures Int., 22 (6), 761-768 (1990). Thus 100 mL of a stock solution of dicyclohexylcarbodiimide in methylene chloride (0.5M) was added to methylene chloride (250 mL). This solution was cooled to 0° C. under nitrogen and Boc-L-alanine (9.46 g, 50.00 mmol) was added. The resulting slurry was stirred for 5 min, and then ethyl N-benzylglycinate (9.37 mL, 50.00 mmol) was added. The reaction was stirred for 2 h at 0° C., then at 20° C. overnight. The precipitate was removed by filtration, and hydrogen chloride gas bubbled through the methylene chloride solution for 2-4 h, until the reaction was shown to be complete by tlc. The solvent was removed in vacuo, and the residue partitioned between ethyl acetate (150 mL) and saturated sodium bicarbonate solution (42 mL). The organic phase was washed with saturated sodium chloride, dryed over magnesium sulfate, filtered and evaporated. The crude product was recrystallized from toluene to give the title compound as white crystals (5.88 g). NMR (300 MHz, CDCl3) δ 7.30-7.38 (3H, m), 7.22-7.30 (2H, m), 6.94 (1H, br s), 4.59 (2H, s), 4.14 (1H, q, J=7 Hz), 3.84 (2H, s), 1.52 (3H, d, J=7 Hz).

reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Boc-L-alanine | 50.00 mmol, 9.46 g | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
reactant | ethyl N-benzylglycinate | 50.00 mmol, 9.37 mL | C(C1=CC=CC=C1)NCC(=O)OCC | C11H15NO2
solvent | methylene chloride | 0.5M | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-3(S)-methylpiperazine-2,5-dione | 5.88 g | C(C1=CC=CC=C1)N1C([C@@H](NC(C1)=O)C)=O | C12H14N2O2
